US03956312
5 ml. of concentrated sulfuric acid are added dropwise to the suspension of 6 g. of 5-nitrofurfurylidenediacetate in 100 ml. of ethanol, and the mixture is stirred for 10 to 30 minutes at 50°C. Thereafter a solution of 6 g. of 5,6-dimethoxyindazole-3-carboxylic acid hydrazide in 100 ml. of dimethylformamide is added, and the mixture is allowed to stand at room temperature for 24 hours. 6.3 g. (70 %) of 5,6-dimethoxyindazole-3-carboxylic acid-(5'-nitro-furfurylidene)-hydrazide are obtained; m.p.: 334°C. This compound is identical with Compund 26 of Table 5.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 5-nitrofurfurylidenediacetate | [N+](=O)([O-])C1=CC=C(C(CC(=O)[O-])CC(=O)[O-])O1
reactant | ethanol | C(C)O | C2H6O
reactant | 5,6-dimethoxyindazole-3-carboxylic acid hydrazide | COC=1C=C2C(=NNC2=CC1OC)C(=O)NN | C10H12N4O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethoxyindazole-3-carboxylic acid-(5'-nitro-furfurylidene)-hydrazide | 70 % | [N+](=O)([O-])C1=CC=C(C=NNC(=O)C2=NNC3=CC(=C(C=C23)OC)OC)O1 | C15H13N5O6
